US06111100
Zh. Vses. Khim. Obshchest. 14(5), 589-90 (1969) (Chem. Abstr. 72: 66879m) describes the formation of morpholine in a yield of 70% by gas-phase reaction of diethylene glycol with NH3 over a nickel catalyst in the presence of H2. Among other by-products, bis(2-morpholinoethyl) ether was isolated in a yield of from 5 to 7%.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | NH3 | N | H3N
reactant | diethylene glycol | C(COCCO)O | C4H10O3
catalyst | nickel | [Ni] | Ni
product | bis(2-morpholinoethyl) ether | yield of 70% | O1CCN(CC1)CCOCCN1CCOCC1 | C12H24N2O3
